### PR TITLE
Close <iostream> refinement specifications

### PR DESCRIPTION
**Pull request by gmalecha-at-skylabs**
This closes the rest of the proofs and generalizes the definitions to support silent steps and refinements.

Input is still not well supported.

### CODE REVIEW

File: rocq-brick-libstdcpp/proof/iostream/spec.v [hunk 1]
```diff
@@ -35,21 +35,43 @@ Module ostream.
...
+    (** Run the handler on each character in the string *)
     Fixpoint bs_dos (OS : Ostream) (bs : bs) (K : mpred) : mpred :=
+      |={⊤}=>
       match bs with
       | BS.EmptyString => K
       | BS.String b bs => OS.(do) {[Write $ Byte.to_N b]} $ fun _ => bs_dos OS bs K
       end.
     #[global] Hint Opaque bs_dos : sl_opacity.
+    Lemma bs_dos_fupd OS bs K : bs_dos OS bs K ⊣⊢ |={⊤}=> bs_dos OS bs K.
+    Proof. destruct bs; simpl; rewrite fupd_idemp; done. Qed.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/iostream/spec.v]:
```suggestion
    Proof. by rewrite /bs_dos fupd_idemp. Qed.
```

File: rocq-brick-libstdcpp/proof/iostream/spec.v [hunk 2]
```diff
@@ -35,21 +35,43 @@ Module ostream.
...
+
+    #[global] Instance elim_modal_fupd_wp_lval OS bs p P Q :
+      ElimModal True p false (|={top}=> P) P (bs_dos OS bs Q) (bs_dos OS bs Q).
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/proof/iostream/spec.v]: Adding IPM instances for such a concept seems odd (but it's hard to argue why, so not a strong objection). Maybe we should just pull out the fancy update instead of hiding it.

File: rocq-brick-libstdcpp/test/g4g/N4_sum.v [hunk 3]
```diff
@@ -11,42 +11,20 @@ Section with_cpp.
...
+     Spectra packaging which uses bundling. *)
+  Definition gen_X := gen_requester_C Sum.
+  Hint Resolve gen_X : sl_opacity.
+  Definition bs_dos_steps_C := gen_bs_dos_steps_C Sum.(App.lts) Sum.(App.inG).
   Hint Resolve bs_dos_steps_C : sl_opacity.
 
   cpp.spec "main()" from source as main_spec with (
-    \prepost{γ osM} _global "std::cout" |-> ostream.R (OS ⊤ γ) osM 1$m
+    \prepost{γ osM} _global "std::cout" |-> ostream.R (OS γ) osM 1$m
+    \prepost Step.updater Sum (⊤ ∖ ↑refinement_rootNS) γ
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/g4g/N4_sum.v]:
```suggestion
    \persist Step.updater Sum (⊤ ∖ ↑refinement_rootNS) γ
```

File: rocq-brick-libstdcpp/test/g4g/N4_sum_a.v [hunk 4]
```diff
@@ -6,57 +6,32 @@ Import linearity.
...
-    \proving{K : mpredI} ostream.bs_dos (OS ⊤ γ) str K
-    \through (AuthSet.frag γ s' -∗ K)
-    \end@{mpredI}.
-  Next Obligation.
-    simpl.
-    intros.
-    iIntros "F" (?) "K".
-    rewrite /Step.requester.
-  Admitted.
+    Definition OS γ : Ostream :=
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/g4g/N4_sum_a.v]:
```suggestion
  Definition OS γ : Ostream :=
```

File: rocq-brick-libstdcpp/test/g4g/N5_swap_a.v [hunk 5]
```diff
@@ -12,37 +12,23 @@ Section with_cpp.
...
   #[local] Instance Swap : App.app := mkApp APP.
-  Definition X := requester_C Swap.
-  Hint Resolve X : sl_opacity.
-
   #[program]
-  Definition OS (E : coPset) γ : Ostream :=
-    {| do := Step.requester Swap E γ |}%I.
-  Next Obligation. repeat intro. apply requester_ne; done. Qed.
-
+    Definition OS γ : Ostream :=
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/g4g/N5_swap_a.v]:
```suggestion
  Definition OS γ : Ostream :=
```

File: rocq-brick-libstdcpp/test/g4g/prelude.v [hunk 6]
```diff
@@ -163,28 +203,45 @@ Section to_spectra.
   Proof. clear. solve_learnable. Qed.
   Hint Resolve authset_frag_exact_learn : sl_opacity.
 
+  Lemma default_masks_valid : masks.valid masks.default (⊤ ∖ ↑refinement_rootNS).
+  Proof. red. set_solver. Qed.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/g4g/prelude.v]: Upstreamed, drop.

File: rocq-brick-libstdcpp/test/g4g/prelude.v [hunk 7]
```diff
@@ -199,36 +256,71 @@ Section to_spectra.
...
   Proof.
-    repeat intro.
-    apply atomic_commit_ne => //; repeat intro;
-                             repeat match goal with
-                               | h : tele_arg _ |- _ => destruct h
-                               end; simpl; repeat f_equiv; eauto.
-    by setoid_rewrite H.
+    intros.
+    work.
+    lazymatch goal with H : masks.valid _ _ |- _ => rename H into Hvalid end.
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/g4g/prelude.v]: ren_hyp?

File: rocq-brick-libstdcpp/test/g4g/prelude.v [hunk 8]
```diff
@@ -339,16 +471,24 @@ Proof.
...
         constructor. } } }
 Qed.
 
-Definition output_app (init : bs -> Prop) : LTS output_event :=
-  {| Sts._state := bs
-   ; Sts._init_state := init
-   ; Sts._step := only_output |}.
+#[global]
+Instance final_any_steps {str str' : bs} :
+  str = str' ->
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/g4g/prelude.v]: Ditto: Not a typeclass, so TC search will struggle here.

File: rocq-brick-libstdcpp/test/g4g/prelude.v [hunk 9]
```diff
@@ -284,46 +376,86 @@ Section to_kont.
...
-    { intros. exists str'.
-      inversion H; subst. constructor => //. constructor. }
-    { inversion 1; subst.
-      eexists _; split. set_solver.
-      constructor. } }
-Qed.
-
 #[global]
 Instance initial_any_steps {str str' rest : bs} :
   str = str' ->
```
Comment (pgiarrusso-sl) [inline rocq-brick-libstdcpp/test/g4g/prelude.v]: Not a typeclass, so TC search will struggle here.
Rule: All side condition of TC instances should have a typeclass as type.

**Review by pgiarrusso-sl — APPROVED** [review]

**Review by pgiarrusso-sl — APPROVED** [review]

File: rocq-brick-libstdcpp/proof/iostream/spec.v (hunk 2 above)
Comment (gmalecha-at-skylabs) [reply rocq-brick-libstdcpp/proof/iostream/spec.v]: I tried pulling out the fancy update, but the automation doesn't do a good job at it.
